US06762180B1
(66) 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-3-nitro-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 6-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-3-amino-nitrobenzene Rf value: 0.6 (silica gel, methylene chloride/methanol=5:1) C28H29N5O7S.

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 6-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-3-amino-nitrobenzene | CN(CCN(S(=O)(=O)C)C1=CC=C(C=C1[N+](=O)[O-])N)C | C11H18N4O4S
product | 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-3-nitro-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | CN(CCN(S(=O)(=O)C)C1=C(C=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1)[N+](=O)[O-])C | C28H29N5O7S
